US08614206B2
A solution of tert-butyl 4-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane-1-carboxylate (200 mg, 0.61 mmol) in DCM (4 mL) and TFA (4 mL) was stirred at room temperature for 1 h. The solvent was removed under reduced pressure, basified with saturated NaHCO3, and extracted with ethyl acetate (3×). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure and the residue purified via silica gel column chromatography (0-10% methanol/DCM) to gave 1-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane (88 mg, 64%). This was dissolved in acetonitrile (3 mL). tert-Butyl 3-iodoazetidine-1-carboxylate (221 mg, 0.78 mmol) and DIPEA (5 eq) were added and the mixture was heated at 75° C. for 7 days, with additional iodide and DIPEA added on days 2 and 3. The reaction mixture was cooled to room temperature, water (20 ml) was added and the mixture was extracted with DCM (50 mL). The organic layer was washed with water (20 mL), separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-10% methanol/DCM) to gave tert-butyl 3-[4-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepan-1-yl]azetidine-1-carboxylate (144 mg, 97%).

reactant | tert-butyl 4-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane-1-carboxylate | 0.61 mmol, 200 mg | CN1N=CC(=C1N1CCN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H23N5O4
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(2-methyl-4-nitro-pyrazol-3-yl)-1,4-diazepane | 88 mg, 64% | CN1N=CC(=C1N1CCNCCC1)[N+](=O)[O-] | C9H15N5O2
